US07015218B1
1-(4-Chlorophenyl)-N-(3-cyano-4-pyrrolidinophenyl)-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid (1.3 g) and 5-amino-2-pyrrolidinobenzonitrile (0.8 g), the title compound (0.4 g) was obtained, melting point: 205° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid | 1.3 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9ClN2O2
reactant | 5-amino-2-pyrrolidinobenzonitrile | 0.8 g | NC=1C=CC(=C(C#N)C1)N1CCCC1 | C11H13N3
product | 1-(4-Chlorophenyl)-N-(3-cyano-4-pyrrolidinophenyl)-5-methylpyrazole-4-carboxamide | 0.4 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCCC1)C#N | C22H20ClN5O
